### PR TITLE
[Merged by Bors] - feat(Topology/Instances/EReal): lemmas related to liminf and limsup

### PR DESCRIPTION
**Pull request by pitmonticone**
Changes: 
- [x] Add `liminf_le_liminf`
- [x] Add `limsup_le_limsup`
- [x] Add `limsup_add_le_lt₂`
- [x] Add `limsup_add_bot_ne_top`
- [x] Add `limsup_add_le_add_limsup`
- [x] Add `ge_iff_le_forall_real_lt`
- [x] Add `liminf_add_ge_gt₂`
- [x] Add `liminf_add_top_ne_bot`
- [x] Add `add_liminf_le_liminf_add`
- [x] Add `limsup_le_iff`
- [x] Add `limsup_le_const_forall`
- [x] Add `const_le_limsup_forall`
- [x] Add `liminf_le_const_forall`
- [x] Add `const_le_liminf_forall`
- [x] Add `limsup_max`

Co-authored-by: @D-Thomine 

---

- [x] depends on: #14125

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
@pitmonticone note: I've updated the PR description with the correct way to specify a dependent PR. Please use that in the future so the Mathlib bots can pick it up. 

Also, the PR title is not informative enough. Something like: "feat(Topology/Instances/EReal): lemmas related to liminf and limsup" would be more clear.

**Comment by pitmonticone** [comment]
Thank you very much @j-loreaux for your comments.

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -1309,6 +1309,34 @@ theorem le_iff_le_forall_real_gt (x y : EReal) : (∀ z : ℝ, x < z → y ≤ z
...
+      norm_cast at h
+      by_contra x_lt_y
+      rcases exists_between (lt_of_not_le x_lt_y) with ⟨z, ⟨x_lt_z, z_lt_y⟩⟩
+      specialize h z z_lt_y
+      exact not_le_of_lt x_lt_z h
+    · exfalso
+      specialize h (x + 1) (coe_lt_top (x+1))
+      norm_cast at h
+      exact not_le_of_lt (lt_add_one x) h
+  · exact le_top
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:1338]: Let me explain the vast changes I'm suggesting here:
1. you can just use refine and swap the arguments of `⟨⟩` instead of using `symm`.
2. when using refine, you can introduce `?_` wherever, like in `fun h ↦ ?_`, and then you don't have to `intro` so many things
3. the `induction` syntax allows you to name the cases, which can be helpful, especially when you would like to name variables like `x y` in the second `h_real` case.
4. you can just inline your `specialize` bits where you use them.
5. `exact_mod_cast` can do `norm_cast` while supplying the term
6. when you use `by_contra!`, it uses `push_neg` on the introduced hypothesis.
```suggestion
  refine ⟨fun h ↦ ?_, fun h z x_lt_z ↦ le_trans h (le_of_lt x_lt_z)⟩
  induction x using EReal.rec
  case h_bot =>
    refine ((eq_bot_iff_forall_lt y).2 fun z ↦ ?_).le
    apply lt_of_le_of_lt <| h (z - 1) (bot_lt_coe (z - 1))
    exact_mod_cast sub_one_lt z
  case h_real =>
    induction y using EReal.rec
    case h_bot => exact bot_le
    case h_real x y =>
      norm_cast at h ⊢
      by_contra! x_lt_y
      rcases exists_between x_lt_y with ⟨z, x_lt_z, z_lt_y⟩
      exact not_le_of_lt z_lt_y <| h z x_lt_z
    case h_top =>
      exfalso
      exact not_le_of_lt (coe_lt_top (_ + 1)) <| h (_ + 1) (EReal.coe_lt_coe_iff.2 (lt_add_one _))
  case h_top => exact le_top
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 2]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+/-! ### Liminfs and Limsups -/
+
+theorem liminf_le_liminf {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v) :
+    liminf u f ≤ liminf v f := Filter.liminf_le_liminf h
+
+theorem limsup_le_limsup {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v) :
+    limsup u f ≤ limsup v f := Filter.limsup_le_limsup h
+
+theorem limsup_add_le_lt₂ {α : Type*} {f : Filter α} {u v : α → EReal} {a b : EReal}
+    (ha : limsup u f < a) (hb : limsup v f < b) : limsup (u + v) f ≤ a + b := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:182]: You should be able to get this?
```suggestion
    (ha : limsup u f < a) (hb : limsup v f < b) : limsup (u + v) f < a + b := by
```

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:182]: Yes, thanks.

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean:1338]: That's amazing! Thank you very much for the explainer!

File: Mathlib/Topology/Instances/EReal.lean [hunk 3]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  rcases exists_between_coe_real (h'.lt_top) with ⟨y, ⟨hy, _⟩⟩
+  rw [← sub_add_cancel x y, coe_add (x - y) y, coe_sub x y]
+  intro _
+  apply @limsup_add_le_lt₂ α f u v (x - y) y _ hy
+  rw [h, ← coe_sub x y]
+  exact bot_lt_coe (x - y)
+
+theorem limsup_add_le_add_limsup {α : Type _} {f : Filter α} {u v : α → EReal}
+    (h : limsup u f ≠ ⊥ ∨ limsup v f ≠ ⊤) (h' : limsup u f ≠ ⊤ ∨ limsup v f ≠ ⊥) :
+    limsup (u + v) f ≤ (limsup u f) + (limsup v f) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:205]: Can you not employ some sort of `wlog` arugment here? (Maybe even a manual one using `suffices` instead of the actual `wlog`)

File: Mathlib/Topology/Instances/EReal.lean [hunk 4]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+    apply lt_of_eq_of_lt _ (sub_lt_sub_of_lt_of_le sum_lt_y (le_of_eq (Eq.refl (limsup v f)))
+      (ne_of_gt v_nbot) (ne_of_lt v_ntop))
+    rw [← limsup_v_real, add_sub_cancel_right]
+  have key₂ : limsup v f < limsup v f + x - y := by
+    rw [← limsup_v_real]; norm_cast; norm_cast at y_lt_x; linarith
+  apply le_of_le_of_eq (limsup_add_le_lt₂ key₁ key₂)
+  rw [← limsup_v_real]; norm_cast; linarith
+
+lemma liminf_add_ge_gt₂ {α : Type _} {f : Filter α} {u v : α → EReal} {a b : EReal}
+    (ha : a < liminf u f) (hb : b < liminf v f) : a + b ≤ liminf (u + v) f := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:230]: There should be a short proof of this that uses [EReal.negOrderIso](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.negOrderIso) and the above version for `limsup`, although you may need to prove a lemma of the form `limsup (-v) = - liminf v` or something to that effect, but this should follow easily from the above order isomorphism.
```suggestion
lemma liminf_add_ge_gt₂ {α : Type _} {f : Filter α} {u v : α → EReal} {a b : EReal}
    (ha : a < liminf u f) (hb : b < liminf v f) : a + b < liminf (u + v) f := by
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 5]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  rcases eq_or_neBot f with (rfl | _); simp only [liminf_bot, le_top]
+  rw [← @liminf_const EReal α _ f _ (a + b)]
+  apply liminf_le_liminf (Eventually.mp (Eventually.and (eventually_lt_of_lt_liminf ha)
+    (eventually_lt_of_lt_liminf hb)) (eventually_of_forall _))
+  simp only [Pi.add_apply, and_imp]
+  intro x
+  exact fun ux_lt_a vx_lt_b ↦ add_le_add (le_of_lt ux_lt_a) (le_of_lt vx_lt_b)
+
+lemma liminf_add_top_of_ne_bot {α : Type _} {f : Filter α} {u : α → EReal} {v : α → EReal}
+    (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥) : liminf (u + v) f = ⊤ := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:240]: Again, just dualize with [EReal.negOrderIso](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.negOrderIso)

File: Mathlib/Topology/Instances/EReal.lean [hunk 6]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  apply top_le_iff.1 ((ge_iff_le_forall_real_lt (liminf (u + v) f) ⊤).1 _)
+  intro x
+  rcases exists_between_coe_real (Ne.bot_lt h') with ⟨y, ⟨_, hy⟩⟩
+  intro _
+  rw [← sub_add_cancel x y, coe_add (x-y) y]
+  exact coe_sub x y ▸ @liminf_add_ge_gt₂ α f u v (x-y) y (h ▸ coe_sub x y ▸ coe_lt_top (x-y)) hy
+
+theorem add_liminf_le_liminf_add {α : Type _} {f : Filter α} {u v : α → EReal}
+    (h : liminf u f ≠ ⊥ ∨ liminf v f ≠ ⊤): (liminf u f) + (liminf v f) ≤ liminf (u + v) f:= by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:249]: ditto

File: Mathlib/Topology/Instances/EReal.lean [hunk 7]
```diff
@@ -171,6 +170,154 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+
+theorem const_le_liminf_forall {α : Type _} {f : Filter α} {u : α → EReal} {b : EReal}
+    (h : ∀ a : α, b ≤ u a) :
+    b ≤ liminf u f := by
+  rcases eq_or_neBot f with (rfl | _)
+  · simp only [liminf_bot, le_top]
+  · exact @Filter.liminf_const EReal α _ f _ b ▸ liminf_le_liminf (eventually_of_forall h)
+
+theorem limsup_max {α : Type _} {f : Filter α} {u v : α → EReal} :
+    limsup (fun a ↦ max (u a) (v a)) f = max (limsup u f) (limsup v f) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:307]: You can dualize again to get a `liminf_min` version

File: Mathlib/Topology/Instances/EReal.lean (hunk 3 above)
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:211]: Honestly, I am not sure how to do it in this case.

File: Mathlib/Topology/Instances/EReal.lean (hunk 5 above)
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:246]: I think I can do it but probably the proof wouldn't be shorter than the current one.

**Comment by pitmonticone** [comment]
Thank you @j-loreaux for your review! 

We should have addressed all your comments and suggestions.

File: Mathlib/Data/Real/EReal.lean [hunk 8]
```diff
@@ -1309,6 +1318,28 @@ theorem le_iff_le_forall_real_gt (x y : EReal) : (∀ z : ℝ, x < z → y ≤ z
       exact not_le_of_lt (coe_lt_top (_ + 1)) h
   · exact le_top
 
+theorem ge_iff_le_forall_real_lt (x y : EReal) : (∀ z : ℝ, z < y → z ≤ x) ↔ y ≤ x := by
+  refine ⟨fun h ↦ ?_, fun h z z_lt_y ↦ le_trans (le_of_lt z_lt_y) h⟩
+  induction x using EReal.rec
```
Comment (sgouezel) [inline Mathlib/Data/Real/EReal.lean:1323]:
```suggestion
  induction x
```

File: Mathlib/Topology/Instances/EReal.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Topology/Instances/EReal.lean:182]: Is your statement true if you weaken `hb` to a large inequality?

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:182]: No, weakening either `hb` or `ha` results in the statement being false.

With the weakened hypothesis `hb`, only the following statement can be proved:

```lean
limsup (u + v) f ≤ a + b
```

**Comment by pitmonticone** [comment]
Thank you @sgouezel for your review! 

I have replied negatively to your question and committed your suggestion.

File: Mathlib/Topology/Instances/EReal.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Topology/Instances/EReal.lean:182]: Well, that's the current conclusion of the lemma, right? My question is whether, weakening hb, you can still have the conclusion `limsup (u + v) f ≤ a + b`.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:182]: Done. Thanks.

**Comment by pitmonticone** [comment]
- [ ] Add `add_le_add_right`, `add_le_add_left` and `add_le_add` in Data/Real/EReal.lean
- [ ] Use `add_le_add_right ` to prove `limsup_add_le_of_le` 

@sgouezel

File: Mathlib/Topology/Instances/EReal.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Topology/Instances/EReal.lean:182]: Unless I missed something, you haven't answered this one.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:182]: Sorry, I have just realised I hadn't submitted the comments (were pending as review comments instead of standard ones).

We have just finished answering this one as follows: 
- [x] Add `add_le_add_right`, `add_le_add_left` and `add_le_add` in Data/Real/EReal.lean
- [x] Use `add_le_add_right ` to prove `limsup_add_le_of_le`

File: Mathlib/Topology/Instances/EReal.lean [hunk 9]
```diff
@@ -171,6 +170,182 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  apply le_of_le_of_eq (limsup_add_le_of_lt key₁ key₂)
+  rw [← limsup_v_real]; norm_cast; linarith
+
+theorem limsup_add_le_of_le {α : Type*} {f : Filter α} {u v : α → EReal} {a b : EReal}
+    (ha : limsup u f < a) (hb : limsup v f ≤ b) : limsup (u + v) f ≤ a + b := by
+  rcases lt_or_eq_of_le hb with (hb | hb)
+  · exact limsup_add_le_of_lt ha hb
+  by_cases hb' : b = ⊤
+  · convert le_top;
+    rw [hb'];
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:241]:
```suggestion
    rw [hb']
```

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Ops. Done, thanks.

File: Mathlib/Data/Real/EReal.lean [hunk 10]
```diff
@@ -900,6 +900,24 @@ theorem add_lt_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y < ⊤
   exact EReal.add_lt_add hx.lt_top hy.lt_top
 #align ereal.add_lt_top EReal.add_lt_top
 
+theorem add_le_add_right {x y z : EReal} (h : x ≤ y) : x + z ≤ y + z := by
```
Comment (sgouezel) [inline Mathlib/Data/Real/EReal.lean:903]: Instead of registering a specific lemma for EReal, can you instead register the right typeclass so that the general lemma `add_le_add_right` applies? Same thing for the other lemmas below.

File: Mathlib/Topology/Instances/EReal.lean [hunk 11]
```diff
@@ -171,6 +170,182 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
 
+/-! ### Liminfs and Limsups -/
+
+theorem liminf_le_liminf {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v) :
+    liminf u f ≤ liminf v f := Filter.liminf_le_liminf h
+
+theorem limsup_le_limsup {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v) :
+    limsup u f ≤ limsup v f := Filter.limsup_le_limsup h
+
+theorem limsup_add_le_of_lt {α : Type*} {f : Filter α} {u v : α → EReal} {a b : EReal}
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:181]: This lemma is a little bit strange, because it is completely superseded by other lemmas below. Can you add a docstring to the lemma, with pointers to the better statements?

File: Mathlib/Data/Real/EReal.lean [hunk 12]
```diff
@@ -900,6 +900,24 @@ theorem add_lt_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y < ⊤
...
+  rcases lt_or_eq_of_le h with (h | rfl)
+  swap; exact le_rfl
+  induction z with
+  | h_bot => simp
+  | h_real z => exact add_lt_add_right_coe h z |>.le
+  | h_top => exact (add_top_of_ne_bot h.ne_bot).symm ▸ le_top
+
+theorem add_le_add_left {x y z : EReal} (h : x ≤ y) : z + x ≤ z + y :=
```
Comment (sgouezel) [inline Mathlib/Data/Real/EReal.lean:911]: All the theorems in your PR should be lemmas. The rule (not yet enforced) is that `theorem` is only for important statements, and in particular all theorems should have a docstring.

File: Mathlib/Topology/Instances/EReal.lean (hunk 4 above)
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Hi @D-Thominez. Notice that this comment is outdated. Please take. A look at the “Files Changed” section.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Hi @D-Thominez. Notice that this comment is outdated. Please take. A look at the “Files Changed” section.

File: Mathlib/Topology/Instances/EReal.lean (hunk 7 above)
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Done. Thanks.

File: Mathlib/Topology/Instances/EReal.lean (hunk 11 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/EReal.lean]: @sgouezel: Even `limsup_add_bot_ne_top` is superseded by `limsup_add_le_add_limsup` (although deriving the former from the latter is slightly cumbersome), so `limsup_add_le_add_limsup` is really the main result we care about.

It was, however, more comfortable to write three lemmas instead of a giant proof of one lemma.

What would be the best option? I can see a few possibilities :

- Keeping the file this way.
- Add docstrings pointing toward the right statements
- Folding the two obsolete lemmas into the proof of the third.
- Marking `limsup_add_le_of_lt` (and maybe `limsup_add_bot_ne_top`) as private.

By the way, since `limsup_add_le_of_lt` is superseded in the end, I don't think it is valuable to try to optimize its hypotheses or conclusion -- cf. yesterday's thread with you and @j-loreaux.

Comment (sgouezel) [reply Mathlib/Topology/Instances/EReal.lean]: Marking the lemmas as private *and* adding docstrings explaining by which statements they are superseded would probably be the best option.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Ok, I have just added the following docstring: 

```lean
/-- This lemma is superseded by `limsup_add_le_of_le` (weaker hypothesis) and
`limsup_add_lt_of_lt` (stronger thesis). -/
lemma limsup_add_le_of_lt {α : Type*} {f : Filter α} {u v : α → EReal} {a b : EReal}
    (ha : limsup u f < a) (hb : limsup v f < b) : limsup (u + v) f ≤ a + b := by
```

Comment (sgouezel) [reply Mathlib/Topology/Instances/EReal.lean]: Note that my message is saying to mark the lemmas as private *and* add docstrings.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Yes, I know. I was isolating the docstring to refer to it in this conversation.

Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Now I have pushed the private status and the other docstring.

File: Mathlib/Data/Real/EReal.lean (hunk 10 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: We have just removed our EReal-specialised implementation of `add_le_add_right` and `add_le_add_left` since we have noticed that the more general `_root_. add_le_add_right` and `_root_. add_le_add_left` worked perfectly well. 

We were just applying them incorrectly...

File: Mathlib/Topology/Instances/EReal.lean [hunk 13]
```diff
@@ -171,6 +170,185 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  @Filter.liminf_const EReal α _ f _ b ▸ liminf_le_liminf (eventually_of_forall h)
+
+lemma const_le_liminf_forall {α : Type*} {f : Filter α} {u : α → EReal} {b : EReal}
+    (h : ∀ a : α, b ≤ u a) :
+    b ≤ liminf u f := by
+  rcases eq_or_neBot f with (rfl | _)
+  · simp only [liminf_bot, le_top]
+  · exact @Filter.liminf_const EReal α _ f _ b ▸ liminf_le_liminf (eventually_of_forall h)
+
+lemma limsup_max {α : Type*} {f : Filter α} {u v : α → EReal} :
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:330]: Is that specific to EReal, or is it true in a general complete linear order? If so, it would be better to have the general version. (Even better, in a general conditionally complete linear order, with suitable boundedness assumptions that are filled by autoparams, just as is done in the file on limsups and liminfs).

File: Mathlib/Data/Real/EReal.lean [hunk 14]
```diff
@@ -900,6 +900,13 @@ theorem add_lt_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y < ⊤
   exact EReal.add_lt_add hx.lt_top hy.lt_top
 #align ereal.add_lt_top EReal.add_lt_top
 
+lemma add_le_add {x y z t : EReal} (h1 : x ≤ y) (h2 : z ≤ t) : x + z ≤ y + t := by
+  rcases lt_or_eq_of_le h1 with (h1 | h1)
+  swap; exact h1 ▸ add_le_add_left h2 x
+  rcases lt_or_eq_of_le h2 with (h2 | h2)
+  swap; exact h2 ▸ add_le_add_right h1.le t
+  exact (add_lt_add h1 h2).le
+
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Done, thanks.

File: Mathlib/Topology/Instances/EReal.lean [hunk 15]
```diff
@@ -171,6 +170,185 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
   nhds_bot_basis.tendsto_right_iff.trans <| by simp only [true_implies, mem_Iio]
 #align ereal.tendsto_nhds_bot_iff_real EReal.tendsto_nhds_bot_iff_real
 
+/-! ### Liminfs and Limsups -/
+
+lemma liminf_le_liminf {α : Type*} {f : Filter α} {u v : α → EReal} (h : u ≤ᶠ[f] v) :
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean:175]: Sure.

[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Done, thanks.

File: Mathlib/Topology/Instances/EReal.lean [hunk 16]
```diff
@@ -171,6 +170,185 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  intro x
+  exact fun ux_lt_a vx_lt_b ↦ add_le_add (le_of_lt ux_lt_a) (le_of_lt vx_lt_b)
+
+lemma limsup_add_lt_of_lt {α : Type*} {f : Filter α} {u v : α → EReal} {a b : EReal}
+    (ha : limsup u f < a) (hb : limsup v f < b) : limsup (u + v) f < a + b := by
+  obtain ⟨c, hc, hca⟩ := DenselyOrdered.dense _ _ ha
+  obtain ⟨d, hd, hdb⟩ := DenselyOrdered.dense _ _ hb
+  exact (limsup_add_le_of_lt hc hd).trans_lt (add_lt_add hca hdb)
+
+/-- This lemma is superseded by `limsup_add_le_add_limsup`. -/
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: Ok, done. Thanks.

File: Mathlib/Topology/Instances/EReal.lean [hunk 17]
```diff
@@ -171,6 +170,185 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+    have key := Filter.eventually_lt_of_limsup_lt (lt_of_le_of_lt h d_lt_c)
+    apply Filter.mem_of_superset key
+    rw [Set.setOf_subset_setOf]
+    exact fun a h' ↦ le_of_lt h'
+  · rcases eq_or_neBot f with (rfl | _)
+    · simp only [limsup_bot, bot_le]
+    · specialize h c b_lt_c
+      exact @Filter.limsup_const EReal α _ f _ (c : EReal) ▸ limsup_le_limsup h
+
+lemma limsup_le_const_forall {α : Type*} {f : Filter α} {u : α → EReal} {b : EReal}
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: @D-Thomine and I are working on it right now. We have decided to remove these lemmas from this PR and proceed as follows in a new PR: 
* Get the more general version of `limsup_le_of_le`
* `limsup_max`: get a version for conditionally complete linear orders (+ autoparam)
* Then write a version for complete linear orders without the autoparam conditions (for the 4 lemmas),
to be put in `Mathlib.Order.LimsupLiminf`

File: Mathlib/Topology/Instances/EReal.lean (hunk 13 above)
Comment (pitmonticone) [reply Mathlib/Topology/Instances/EReal.lean]: @D-Thomine and I are working on it right now. We have decided to remove these lemmas from this PR and proceed as follows in a new PR: 
* Get the more general version of `limsup_le_of_le`
* `limsup_max`: get a version for conditionally complete linear orders (+ autoparam)
* Then write a version for complete linear orders without the autoparam conditions (for the 4 lemmas),
to be put in `Mathlib.Order.LimsupLiminf`

File: Mathlib/Topology/Instances/EReal.lean [hunk 18]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  intro x
+  exact fun ux_lt_a vx_lt_b ↦ add_le_add (le_of_lt ux_lt_a) (le_of_lt vx_lt_b)
+
+lemma limsup_add_lt_of_lt {a b : EReal}
+    (ha : limsup u f < a) (hb : limsup v f < b) : limsup (u + v) f < a + b := by
+  obtain ⟨c, hc, hca⟩ := DenselyOrdered.dense _ _ ha
+  obtain ⟨d, hd, hdb⟩ := DenselyOrdered.dense _ _ hb
+  exact (limsup_add_le_of_lt hc hd).trans_lt (add_lt_add hca hdb)
+
+lemma limsup_add_bot_of_ne_top {u : α → EReal} {v : α → EReal}
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:203]:
```suggestion
lemma limsup_add_bot_of_ne_top
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 19]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  apply (le_iff_le_forall_real_gt ⊥ (limsup (u + v) f)).1
+  intro x
+  rcases exists_between_coe_real (h'.lt_top) with ⟨y, ⟨hy, _⟩⟩
+  rw [← sub_add_cancel x y, coe_add (x - y) y, coe_sub x y]
+  intro _
+  apply @limsup_add_le_of_lt α f u v (x - y) y _ hy
+  rw [h, ← coe_sub x y]
+  exact bot_lt_coe (x - y)
+
+lemma limsup_add_le_add_limsup {u v : α → EReal}
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:215]:
```suggestion
lemma limsup_add_le_add_limsup
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 20]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  rcases lt_or_eq_of_le hb with (hb | hb)
+  · exact limsup_add_le_of_lt ha hb
+  by_cases hb' : b = ⊤
+  · convert le_top
+    rw [hb']
+    exact add_top_of_ne_bot ha.ne_bot
+  exact (limsup_add_le_add_limsup (hb ▸ Or.inr hb') (Or.inl ha.ne_top)).trans
+    (add_le_add ha.le hb.le)
+
+lemma liminf_neg {v : α → EReal} : liminf (- v) f = - limsup v f :=
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:252]:
```suggestion
lemma liminf_neg : liminf (- v) f = - limsup v f :=
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 21]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  EReal.negOrderIso.limsup_apply.symm
+
+lemma limsup_neg {v : α → EReal} : limsup (- v) f = - liminf v f :=
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:255]:
```suggestion
lemma limsup_neg : limsup (- v) f = - liminf v f :=
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 22]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+  have h : limsup (-(u + v)) f = limsup (-u + -v) f := by
+    apply limsup_congr
+    filter_upwards [eventually_lt_of_lt_liminf ha, eventually_lt_of_lt_liminf hb] with x hax hbx
+    dsimp
+    rw [neg_add (Or.inl hax.ne_bot) (Or.inr hbx.ne_bot), sub_eq_add_neg]
+  rw [← neg_lt_neg_iff, ← limsup_neg] at ha hb ⊢
+  rw [neg_add (Or.inr hb') (Or.inl ha'), h]
+  exact limsup_add_lt_of_lt ha hb
+
+lemma liminf_add_top_of_ne_bot {u : α → EReal} {v : α → EReal}
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:271]:
```suggestion
lemma liminf_add_top_of_ne_bot
```

File: Mathlib/Topology/Instances/EReal.lean [hunk 23]
```diff
@@ -171,6 +170,147 @@ theorem tendsto_nhds_bot_iff_real {α : Type*} {m : α → EReal} {f : Filter α
...
+    filter_upwards [eventually_lt_of_lt_liminf (bot_lt_iff_ne_bot.mpr hu),
+      eventually_lt_of_lt_liminf (bot_lt_iff_ne_bot.mpr hv)] with x hux hvx
+    dsimp
+    rw [neg_add (Or.inl hux.ne_bot) (Or.inr hvx.ne_bot), sub_eq_add_neg]
+  rw [← neg_le_neg_iff, neg_add (Or.inl hu) (Or.inr hv), sub_eq_add_neg]
+  rw [← neg_inj, neg_bot] at hu hv
+  simp_rw [← limsup_neg] at hu hv ⊢
+  exact h' ▸ limsup_add_le_add_limsup (Or.inr hv) (Or.inl hu)
+
+lemma limsup_le_iff {u : α → EReal} {b : EReal} :
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/EReal.lean:297]:
```suggestion
lemma limsup_le_iff {b : EReal} :
```

**Review by sgouezel — COMMENTED** [review]
Could you also move a and b to the `variables` line and remove them from the statements?
bors d+
Thanks!
